US04631274
To a solution of benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate-1-oxide (7.3 g) in N,N-dimethylformamide (35 ml) was added phosphorus trichloride (1.76 ml) at -40° C. After stirring at the same temperature for 30 minutes, the mixture was poured into ice-water. The resulting precipitate was collected by filtration and dried to give benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (6.3 g).

reactant | benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate-1-oxide | 7.3 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H27ClN2O6S
reactant | phosphorus trichloride | 1.76 ml | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 6.3 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H27ClN2O5S
